US04946754
A mixture of 65.4 grams of p-iodotoluene, 11.3 grams of copper bronze powder and 55.3 grams of potassium carbonate in 150 milliliters of Soltrol 220 was mechanically stirred in a 250 milliliter round-bottomed flask fitted with a reflux condenser. The mixture was first heated to 160° C. with a heating mantle before 16.92 grams of 4-aminobiphenyl was added. After the addition, the reaction mixture was heated under reflux at 220° C. for five hours. After cooling, the reaction mixture was filtered, and the resulting filter cake was washed with 50 milliliters of heptane. The filtrate was distilled under reduced pressure to remove Soltrol 220. The resulting solid residue was purified by column chromatography on silica gel to afford a white solid. Further purification by recrystallization from isopropanol yielded 16.2 grams of analytically pure bis(p-tolyl)-4-biphenylylamine, melting point, 94° to 95° C.

reactant | p-iodotoluene | 65.4 grams | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 55.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 4-aminobiphenyl | 16.92 grams | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
catalyst | copper bronze | 11.3 grams | [Cu] | Cu
product | bis(p-tolyl)-4-biphenylylamine | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C)C | C26H23N
